US04708733
Preparation of diethyl-2-(2'-methyl-4-chloro-phenoxy)-propionyl-malonate
25.1 g of diethyl-2-chloro-propionyl-malonate and 14.2 g of 4-chloro-o-cresol are dissolved in 100 ml dimethyl formamide. The mixture is stirred at 60° C. for 48 hours in the presence of 13.8 g of potassium carbonate. The reaction mixture is filtered and the filtrate is evaporated. The residue is dissolved in 100 ml of benzene and washed successively with 100 ml of a saturated aqueous sodium bicarbonate solution and 100 ml of water. The benzene phase is evaporated to yield 28 g of the desired compound, yield 80%.

reactant | diethyl-2-chloro-propionyl-malonate | 25.1 g | C(C)OC(C(C(=O)OCC)C(C(C)Cl)=O)=O | C10H15ClO5
reactant | 4-chloro-o-cresol | 14.2 g | ClC=1C=C(C(=CC1)O)C | C7H7ClO
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | diethyl-2-(2'-methyl-4-chloro-phenoxy)-propionyl-malonate | 28 g, yield 80% | C(C)OC(C(C(=O)OCC)C(C(C)OC1=C(C=C(C=C1)Cl)C)=O)=O | C17H21ClO6
